US08754226B2
To a solution of tert-butyl 3-(4-bromo-2,5-difluorophenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate (710 mg, 1.45 mmol) in DMSO (4 mL) was added Cu(I) triflate benzene complex (73 mg, 0.145 mmol), sodium methanesulfinate (222 mg, 2.18 mmol) and trans-cyclohexane-1,2-diamine (66.3 mg, 0.580 mmol). The reaction was heated at 110° C. overnight. The reaction was cooled to ambient temperature and diluted with water (5 mL) and EtOAc (5 mL). The organic layer was separated and the aqueous washed with EtOAc (2×10 mL). The combined organic layers were dried with MgSO4 and concentrated. The crude residue was purified over silica gel (2:1 hexanes/EtOAc) to give a clear oil. This material was then dissolved in CH2Cl2 (10 mL) and excess 2 N HCl in ether (5 mL) added. The reaction was allowed to stir overnight and then concentrated under vacuum to give 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1,4′-bipiperidin-2-one HCl salt (238 mg, 89%) was an off white solid.

reactant | tert-butyl 3-(4-bromo-2,5-difluorophenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 1.45 mmol, 710 mg | BrC1=CC(=C(OC2C(N(CCC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1F)F | C21H27BrF2N2O4
reactant | sodium methanesulfinate | 2.18 mmol, 222 mg | CS(=O)[O-].[Na+]
reactant | trans-cyclohexane-1,2-diamine | 0.580 mmol, 66.3 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | HCl | 2 N | Cl | ClH
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | 5 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 5 mL | CCOCC | C4H10O
product | 3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1,4′-bipiperidin-2-one HCl salt | 238 mg, 89% | Cl.FC1=C(OC2C(N(CCC2)C2CCNCC2)=O)C=C(C(=C1)S(=O)(=O)C)F | InChI=1S/C17H22F2N2O4S.ClH/c1-26(23,24)16-10-12(18)15(9-13(16)19)25-14-3-2-8-21(17(14)22)11-4-6-20-7-5-11;/h9-11,14,20H,2-8H2,1H3;1H
